US05101053
4-(N-(Methacryloylethyl)-carbamoyl)-phenyldimethylsulfonium hexafluorophosphate
A solution of 3 g of triethylamine in 89 g of tetrahydrofuran was added dropwise to a mixture of 870 g of toluene, 443 g of tetrahydrofuran, 90 g of 4-hydroxyphenyldimethylsulfonium hexafluorophosphate and 51 g of isocyanatoethyl methacrylate at from 20 to 25° C. in the course of 10 minutes, at a rate such that there was no marked temperature increase After 12 hours, the product was filtered off under suction, washed with toluene and recrystallized from ethanol. Yield: 112 g (82%) of colorless crystals of melting point 102°-104° C.

reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 870 g | C1(=CC=CC=C1)C | C7H8
reactant | 4-hydroxyphenyldimethylsulfonium hexafluorophosphate | 90 g | F[P-](F)(F)(F)(F)F.OC1=CC=C(C=C1)[S+](C)C
reactant | isocyanatoethyl methacrylate | 51 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | tetrahydrofuran | 89 g | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 443 g | O1CCCC1 | C4H8O
product | 4-(N-(Methacryloylethyl)-carbamoyl)-phenyldimethylsulfonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(C(=C)C)(=O)CCNC(=O)C1=CC=C(C=C1)[S+](C)C | InChI=1S/C15H19NO2S.F6P/c1-11(2)14(17)9-10-16-15(18)12-5-7-13(8-6-12)19(3)4;1-7(2,3,4,5)6/h5-8H,1,9-10H2,2-4H3;/q;-1/p+1
